US07576082B2
Sodium hydride (60% in oil, 0.3 g, 7.5 mmol) (Aldrich) was added to a suspension of 6-chloroisatin (1.82 g, 10 mmol) in tetrahydrofuran (30 mL) under argon with cooling in a −25° C. bath and magnetic stirring. After 10 minutes, a solution of 4-methoxyphenyl magnesium bromide in tetrahydrofuran (0.5 M, 40 mL, 20 mmol) (Aldrich) was added dropwise at such a rate that reaction temperature was kept below −10° C. (approximately 30 minutes). Cooling bath was then removed and mixture allowed to warm to room temperature. After stirring for an additional 2 hour, 15% aqueous ammonium chloride solution (25 mL) and water (50 mL) were added and mixture extracted with ethyl acetate (2×75 mL). Ethyl acetate layers were then washed with water (75 mL), brine (75 mL), combined, dried (MgSO4), filtered and concentrated. Residue was stirred in dichloromethane (100 mL) at room temperature for 15 minutes and filtered to give crude rac-6-chloro-3-hydroxy-3-(4-methoxy-phenyl)-1,3-dihydro-indol-2-one as an off-white powder. This was used in the next step without further purification.

reactant | Sodium hydride | 7.5 mmol, 0.3 g | [H-].[Na+]
reactant | 6-chloroisatin | 10 mmol, 1.82 g | ClC1=CC=C2C(C(NC2=C1)=O)=O | C8H4ClNO2
reactant | 4-methoxyphenyl magnesium bromide | COC1=CC=C(C=C1)[Mg]Br
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mmol, 0.5 M, 40 mL | O1CCCC1 | C4H8O
product | rac-6-chloro-3-hydroxy-3-(4-methoxy-phenyl)-1,3-dihydro-indol-2-one | ClC1=CC=C2C(C(NC2=C1)=O)(C1=CC=C(C=C1)OC)O | C15H12ClNO3
